US08304419B2
Step A: 3-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-5-(trifluoromethyl)benzonitrile
To a solution of 6-chloro-2-fluoro-3-methylphenol (8.49 g, 52.9 mmol) and 18-crown-6 (13.98 g, 52.9 mmol) in dimethyl sulfoxide (80 ml) was added potassium t-butoxide (20% wt solution in THF) (31.2 g, 55.5 mmol) (31.2 mL) and the mixture was stirred at rt for 30 minutes. Next, 3-fluoro-5-(trifluoromethyl)benzonitrile (10.00 g, 52.9 mmol) was added and the mixture was heated with stirring for 5 hours at 135° C. The reaction mixture was cooled to 0° C., poured into 700 mL water, and the precipitate was filtered off to give the title compound (12.6 g, 38.2 mmol, 72% yield) as a grey solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.10 (s, 1H), 7.80 (s, 1H), 7.74 (s, 1H), 7.39-7.49 (m, 1H), 7.34 (t, 1H), 2.28 (s, 3H).

reactant | 6-chloro-2-fluoro-3-methylphenol | 52.9 mmol, 8.49 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | 18-crown-6 | 52.9 mmol, 13.98 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium t-butoxide | 55.5 mmol, 31.2 mL, 31.2 g | CC(C)([O-])C.[K+]
reactant | 3-fluoro-5-(trifluoromethyl)benzonitrile | 52.9 mmol, 10.00 g | FC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F4N
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | water | 700 mL | O | H2O
product | 3-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-5-(trifluoromethyl)benzonitrile | 38.2 mmol, 12.6 g, 72% yield | ClC1=CC=C(C(=C1OC=1C=C(C#N)C=C(C1)C(F)(F)F)F)C | C15H8ClF4NO
